US07365071B2
Stage A: 4-Cinnolinol hydrochloride
560 ml of concentrated hydrochloric acid are introduced into a reactor. 111.6 g of 2-acetylaniline are added at ambient temperature. 62.8 g of sodium nitrite, in solution in 170 ml of water, are added to this orange-colored solution at −5° C. over 1 hour. The temperature is kept below 0° C. throughout the introduction. The reaction medium is heated at 65° C. for 3 hours. The mixture is subsequently cooled over 20 minutes and the product is then filtered off and washed with ether. The compound is dried over P2O5 at 45° C. overnight. 118.6 grams (77%) of the expected product are obtained.

reactant | hydrochloric acid | 560 ml | Cl | ClH
reactant | 2-acetylaniline | 111.6 g | C(C)(=O)C1=C(N)C=CC=C1 | C8H9NO
reactant | sodium nitrite | 62.8 g | N(=O)[O-].[Na+]
solvent | water | 170 ml | O | H2O
product | 4-Cinnolinol hydrochloride | 118.6 grams, 77% | Cl.N1=NC=C(C2=CC=CC=C12)O | InChI=1S/C8H6N2O.ClH/c11-8-5-9-10-7-4-2-1-3-6(7)8;/h1-5H,(H,10,11);1H
